US06114330
A solution of 1 g of methyl phenyl sulphoxide in 14 ml of tetrahydrofuran is added dropwise at 78° C. within 10 min. to 3.93 ml of 2M solution of lithium diisopropylamide in tetrahydrofuran/heptane/ethylbenzene in 20 ml of tetrahydrofuran. The reaction mixture is stirred for a further 30 min. A solution of 0.928 g of phthalazine in 14 ml of tetrahydrofuran is added dropwise within 10 min. The mixture is stirred at -78° C. for 1 hr., treated with 100 ml of water and extracted 3 times with 50 ml of chloroform. The organic phases are combined, dried over magnesium sulphate, filtered and the filtrate is concentrated. 1.9 g of crude (RS)-1-benzenesulphinylmethyl-1,2-dihydro-phthalazine are isolated as a yellowish oil, MS(ISP): 271.2 (M+H)+.

reactant | methyl phenyl sulphoxide | 1 g | C1(=CC=CC=C1)S(=O)C | C7H8OS
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | phthalazine | 0.928 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran heptane ethylbenzene | O1CCCC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | (RS)-1-benzenesulphinylmethyl-1,2-dihydro-phthalazine | 1.9 g | C1(=CC=CC=C1)S(=O)CC1NN=CC2=CC=CC=C12 | C15H14N2OS
